US04826834
6-Dimethylamino[1,2,4]triazolo[1,5-b]pyridazine.
6-Chloro[1,2,4]triazolo[1,5-b]pyridazine (0.9 g) is dissolved in 10 ml of ethanol, to which 10 ml of a 7.2% solution of dimethylamine in ethanol is added. The mixture is stirred at room temperature for 24 hours. After the solvent is evaporated off under reduced pressure, the residue is dissolved in methylene chloride, washed with water and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent is evaporated off under reduced pressure to give 0.82 g of the titled compound as a white crystal.

reactant | 6-Chloro[1,2,4]triazolo[1,5-b]pyridazine | 0.9 g | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Dimethylamino[1,2,4]triazolo[1,5-b]pyridazine | 0.82 g | CN(C=1C=CC=2N(N1)N=CN2)C | C7H9N5
